US07247734B2
A mixture of 4-(4-methoxy-phenyl)-5-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole and 4-(4-methoxy-phenyl)-3-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole (1 eq) was taken up in THF and cooled under nitrogen to −78° C. nBuLi (1.2 eq) was added dropwise and all was stirred for 30 minutes. Triisopropylborate (2.5 eq) was added and the reaction was stirred to room temperature. After 45 minutes, the reaction mixture was quenched with water and extracted with EtOAc. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to give a gum. This was purified by flash chromatography (9:1 hexane: EtOAc) to give 4-(4-methoxy-phenyl)-3-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole-5-boronic acid as an oil.

reactant | 4-(4-methoxy-phenyl)-5-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole | COC1=CC=C(C=C1)C=1C=NN(C1C)COCC[Si](C)(C)C | C17H26N2O2Si
reactant | 4-(4-methoxy-phenyl)-3-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole | 1 eq | COC1=CC=C(C=C1)C=1C(=NN(C1)COCC[Si](C)(C)C)C | C17H26N2O2Si
reactant | nBuLi | 1.2 eq | [Li]CCCC
reactant | Triisopropylborate | 2.5 eq | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-methoxy-phenyl)-3-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazole-5-boronic acid | COC1=CC=C(C=C1)C=1C(=NN(C1B(O)O)COCC[Si](C)(C)C)C | C17H27BN2O4Si
